US04703052
(ii) Methyl 1-(2-benzyloxyphenyl)methylcyclohexan-1-carboxylate
Under anhydrous conditions and a nitrogen atmoshere a solution of 8.7 g (0.086 mole) diisopropylamine in 250 ml tetrahydrofuran was cooled to -78° C. and 1.6M n-butyllithium (53.75 ml, 0.086 mole) was added dropwise over ten minutes. The mixture was stirred for 45 minutes, allowed to warm to 0° C. and 12.2 g (0.086 mole) methyl cyclohexancarboxylate was added. Stirring was continued for 45 minutes and then 20 g (0.086 mole) 2-benzyloxybenzyl chloride in 20 ml tetrahydrofuran was added dropwise. The resulting mixture was stirred at room temperature for 24 hours, quenched by addition of 150 ml 3M acetic acid and stirred at room temperature for one week. The mixture was diluted with ethyl ether, washed with sodium bicarbonate solution, brine, dried (MgSO4) and concentrated to a yellow oil, 29.3 g. This was distilled to obtain 20.23 g (70%) of viscous oil, b.p. 135°-140° C. (0.4 Torr).

reactant | diisopropylamine | 0.086 mole, 8.7 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.086 mole, 1.6M, 53.75 ml | C(CCC)[Li]
reactant | methyl cyclohexancarboxylate | 0.086 mole, 12.2 g | C1(CCCCC1)C(=O)OC | C8H14O2
reactant | 2-benzyloxybenzyl chloride | 0.086 mole, 20 g | C(C1=CC=CC=C1)OC1=C(CCl)C=CC=C1 | C14H13ClO
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Methyl 1-(2-benzyloxyphenyl)methylcyclohexan-1-carboxylate | 20.23 g, 70% | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC1(CCCCC1)C(=O)OC | C22H26O3
